US09126982B2
3,5-diamino-6-chloro-N-[(methylsulfanyl)methanimidoyl]pyrazine-2-carboxamide
To NaOH (1 mol/l in water; 9.2 mL; 9.2 mmol) is added S-methylisothiourea sulphate (1.78 g; 6.1 mmol. The mixture is stirred until complete solution is achieved. TBME/THF (1:1; 30 mL) and then 1-(tert-butylcarbamoyl)prop-1-en-2-yl 3,5-diamino-6-chloropyrazine-2-carboxylate (Intermediate B.1; 2.00 g; 6.10 mmol) are added and the mixture is stirred at r.t. over night, then water (6 mL) is added. The precipitate formed is filtered off with suction, washed successively with water, methanol and then with diethyl ether and then dried at 50° C. to yield the title compound.

reactant | NaOH | 9.2 mmol, 1 mol/l, 9.2 mL | [OH-].[Na+]
reactant | S-methylisothiourea sulphate | S(=O)(=O)(O)O.CSC(N)=N
reactant | TBME THF | 30 mL | CC(C)(C)OC.C1CCOC1
reactant | 1-(tert-butylcarbamoyl)prop-1-en-2-yl 3,5-diamino-6-chloropyrazine-2-carboxylate | 6.10 mmol, 2.00 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)OC(=CC(NC(C)(C)C)=O)C | C13H18ClN5O3
solvent | water | 6 mL | O | H2O
product | 3,5-diamino-6-chloro-N-[(methylsulfanyl)methanimidoyl]pyrazine-2-carboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC(=N)SC | C7H9ClN6OS
